US04515948
A mixture of 9 g. of diethoxy-tetrahydrofuran and 5 ml. of glacial acetic acid was added dropwise at room temperature to a solution of 10.5 g. of 4-amino-3,5-dimethoxy-benzoic acid methyl ester in 50 ml. of glacial acetic acid with stirring. The mixture was stirred at 100° C. for an additional 30 minutes, cooled with ice, filtered under vacuum, dried and recrystallized from cyclohexane, whereby there was obtained 3,5-dimethoxy-4-(pyrrol-1-yl)-benzoic acid methyl ester having a melting point of 145°-146° C.

reactant | diethoxy-tetrahydrofuran | C(C)OC1(OCCC1)OCC | C8H16O3
reactant | 4-amino-3,5-dimethoxy-benzoic acid methyl ester | COC(C1=CC(=C(C(=C1)OC)N)OC)=O | C10H13NO4
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3,5-dimethoxy-4-(pyrrol-1-yl)-benzoic acid methyl ester | COC(C1=CC(=C(C(=C1)OC)N1C=CC=C1)OC)=O | C14H15NO4
